US08017626B2
Method 10: 3-benzyl 7-methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3,7-dicarboxylate
To a solution of dibenzyl malonate (2.99 ml, 11.9 mmol) in DMF (41 ml) was added sodium hydride in portions. The cloudy grey mixture was stirred at room temperature for 20 min after which time a clear solution resulted. The solution was further stirred at 120° C. for 20 min before adding a solution of methyl 1-methyl-2,4-dioxo-2,4-dihydro-1H-benzo[d][1,3]oxazine-7-carboxylate (2.82 g, 11.9 mmol) in DMF (41 ml). The resulting yellow solution was stirred at 120° C. for 3 hrs. The reaction mixture was cooled to room temperature, 2N HCl and EtOAc were added and the layers were separated. The aqueous layer was extracted with EtOAc 3×, the combined organics were washed with H2O (1×) followed by sat. NaCl (2×). The organic phase was then dried over MgSO4, filtered and concentrated to give a yellow solid. Purification was performed by ISCO using 10% to 50% Hex/EtOAc gradient, 40 g column to give 300 mg of a yellow solid.

reactant | dibenzyl malonate | 11.9 mmol, 2.99 ml | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 1-methyl-2,4-dioxo-2,4-dihydro-1H-benzo[d][1,3]oxazine-7-carboxylate | 11.9 mmol, 2.82 g | CN1C(OC(C2=C1C=C(C=C2)C(=O)OC)=O)=O | C11H9NO5
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 41 ml | CN(C)C=O | C3H7NO
solvent | DMF | 41 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-benzyl 7-methyl 4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3,7-dicarboxylate | 300 mg | OC1=C(C(N(C2=CC(=CC=C12)C(=O)OC)C)=O)C(=O)OCC1=CC=CC=C1 | C20H17NO6
